US05166188
3-((N-Methyl-N-(2-(3,4-dimethoxyphenyl)ethyl)amino)-2-methylpropyl chloride
8.0 g of N-methyl-(2-(3,4-dimethoxyphenyl)ethyl)amine was dissolved in 120 ml of N,N-dimethylformamide, followed by the addition of 6.8 g of anhydrous potassium carbonate and 14.4 ml of 1-bromo-3-chloro-2-methylpropane. The obtained mixture was reacted at a room temperature for 12 hours, followed by the addition of water. The obtained mixture was extracted with ethyl acetate. The ethyl acetate phase was washed with water and a saturated aqueous solution of common salt, dried over anhydrous potassium carbonate and distilled to remove the solvent. The obtained residue was purified by silica gel column chromatography [solvent: dichloromethane/methanol (50:1)] to obtain 4.67 g of the title compound as a pale yellow oil (yield: 40%).

reactant | N-methyl-(2-(3,4-dimethoxyphenyl)ethyl)amine | 8.0 g | CNCCC1=CC(=C(C=C1)OC)OC | C11H17NO2
reactant | potassium carbonate | 6.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloro-2-methylpropane | 14.4 ml | BrCC(CCl)C | C4H8BrCl
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | (N-Methyl-N-(2-(3,4-dimethoxyphenyl)ethyl)amino)-2-methylpropyl chloride | 4.67 g, yield: 40% | CN(CCC1=CC(=C(C=C1)OC)OC)C(C(C)C)Cl | C15H24ClNO2
